US07691882B2
3-(3-(4-Benzylsulfanyl-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (3 mL) solution of 3-ethynyl-pyridin-2-ylamine (50 mg, 0.423 mmol) described in Manufacturing Example 1-2-3 and (4-phenylsulfanylmethyl-phenyl)acetohydroximoyl chloride (197 mg, 0.677 mmol) described in Manufacturing Example 205-1-6 was added triethylamine (147 μL, 1.06 mmol), which was stirred for 18 hours at room temperature. This mixture was cooled to room temperature and partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:4 to 1:2) to obtain the title compound (29 mg, 18%).

reactant | 3-ethynyl-pyridin-2-ylamine | 0.423 mmol, 50 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | (4-phenylsulfanylmethyl-phenyl)acetohydroximoyl chloride | 0.677 mmol, 197 mg | C1(=CC=CC=C1)SCC1=CC=C(C=C1)CC(=NO)Cl | C15H14ClNOS
reactant | triethylamine | 1.06 mmol, 147 μL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Benzylsulfanyl-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 29 mg, 18% | C(C1=CC=CC=C1)SC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H19N3OS
